US06288082B1
To a stirred solution of 26.9 ml of n-butyllithium (2.5 M in hexane) in 50 ml of THF at −78° C. was added a 3.51 ml of acetonitrile in 20 ml of THF during 10 min. After stirring at −78° C. for 30 min, the mixture was treated with 10 g of methyl 4-benzyloxy-2-(dimethylaminomethyleneamino)-5-methoxybenzoate in 20 ml of THF during 5 min. After 15 min at −78° C. the stirred mixture was warmed to 0° C. for a further 30 min. It was then treated with 5 ml of acetic acid, warmed to 25° C. and stirred for 30 min. The mixture was evaporated to dryness, and diluted with aqueous sodium bicarbonate. The resulting off-white solid was filtered, washed with water, ethyl acetate and ether. After drying, 4.5 g of 7-benzyloxy-4-hydroxy-6-methoxy-quinoline-3-carbonitrile was obtained as an off-white solid, dec>255° C.; mass spectrum (electrospray, m/e) M+H 307.

reactant | n-butyllithium | 2.5 M, 26.9 ml | C(CCC)[Li]
reactant | acetonitrile | 3.51 ml | C(C)#N | C2H3N
reactant | methyl 4-benzyloxy-2-(dimethylaminomethyleneamino)-5-methoxybenzoate | 10 g | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1OC)N=CN(C)C | C19H22N2O4
reactant | acetic acid | 5 ml | C(C)(=O)O | C2H4O2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 7-benzyloxy-4-hydroxy-6-methoxy-quinoline-3-carbonitrile | 4.5 g | C(C1=CC=CC=C1)OC1=C(C=C2C(=C(C=NC2=C1)C#N)O)OC | C18H14N2O3
